US09278983B2
To a mixture of 2-(2-ethylsulfanyl-4-trifluoromethylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (12 g) and chloroform (111 mL), 69-75% of 3-chloroperbenzoic acid (8.0 g) was added under ice-cooling. The mixture was heated to room temperature, and stirred for 0.5 hours. Into the mixture, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution were poured, and extracted with chloroform. The combined organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 9.1 g of 2-(2-ethylsulfonyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter, Present Compound 345).

reactant | 2-(2-ethylsulfanyl-4-trifluoromethylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 12 g | C(C)SC1=C(C=CC(=C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1 | C16H11F6N3S
reactant | 3-chloroperbenzoic acid | 8.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 111 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-ethylsulfonyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 9.1 g | C(C)S(=O)(=O)C1=C(C=CC(=C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1 | C16H11F6N3O2S
